US07557121B2
Preparation 30: 4-Ethyl-3-fluoropyridine
nButyllithium (1.6M in tetrahydrofuran, 62.4 ml, 100 mmol) was added dropwise to a solution of diisopropylamine (10 g, 100 mmol) in tetrahydrofuran (110 mL), cooled to −78° C. 3-Fluoropyridine (10 g, 100 mmol) was added dropwise and the reaction mixture was stirred for 1 hour with the temperature maintained below −60° C. Ethyl iodide (31.2 g, 200 mmol) was then added dropwise and the mixture was allowed to stir at room temperature for 30 minutes. The reaction mixture was slowly diluted with water, the solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic layer was separated, dried over magnesium sulfate and concentrated in vacuo to give a crude residue. The residue was distilled and title product was obtained during a temperature range of 152-156° C., in 35% yield, 4.46 g.

reactant | diisopropylamine | 100 mmol, 10 g | C(C)(C)NC(C)C | C6H15N
reactant | 3-Fluoropyridine | 100 mmol, 10 g | FC=1C=NC=CC1 | C5H4FN
reactant | Ethyl iodide | 200 mmol, 31.2 g | C(C)I | C2H5I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-Ethyl-3-fluoropyridine | 35% yield | C(C)C1=C(C=NC=C1)F | C7H8FN
